US05411979
A mixture of 200 mg (0.687 mmol.) of 2-(2,6-difluorophenyl)-4-methanesulfonyloxymethyl-2-oxazoline, 232 mg (1.00 mmol.) of 4-(4-chlorophenyl)phenol, 24 mg (1.0 mmol.) of sodium hydroxide and 3 ml of N,N-dimethylformamide was stirred at room temperature for 24 hours. After the reaction was completed, the reaction mixture was poured into 50 ml of a 10% aqueous solution of ammonium chloride and extracted twice with ethyl acetate. The residue was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 50 mg of 2-(2,6-difluorophenyl)-4-{[4-(4-chlorophenyl) phenoxy]methyl}-2-oxazoline as a white solid (m.g. 99.5° C.).

reactant | 2-(2,6-difluorophenyl)-4-methanesulfonyloxymethyl-2-oxazoline | 0.687 mmol, 200 mg | FC1=C(C(=CC=C1)F)C=1OCC(N1)COS(=O)(=O)C | C11H11F2NO4S
reactant | 4-(4-chlorophenyl)phenol | 1.00 mmol, 232 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9ClO
reactant | sodium hydroxide | 1.0 mmol, 24 mg | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(2,6-difluorophenyl)-4-{[4-(4-chlorophenyl) phenoxy]methyl}-2-oxazoline | 50 mg | FC1=C(C(=CC=C1)F)C=1OCC(N1)COC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C22H16ClF2NO2
